US07834051B2
4-[5-(tert-butoxymethyl)-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl]-2-chlorobenzonitrile
Using 5-(tert-butoxymethyl)-3,3-dimethylpyrrolidine-2,4-dione (1.20 g), 4-bromo-2-chlorobenzonitrile (1.46 g), cesium carbonate (2.75 g), tris(dibenzylideneacetone)dipalladium(0) (258 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (488 mg), and in the same manner as in Reference Example 3, the title compound was obtained as colorless crystals (yield: 1.59 g, 81%).

reactant | 5-(tert-butoxymethyl)-3,3-dimethylpyrrolidine-2,4-dione | 1.20 g | C(C)(C)(C)OCC1C(C(C(N1)=O)(C)C)=O | C11H19NO3
reactant | 4-bromo-2-chlorobenzonitrile | 1.46 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | cesium carbonate | 2.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 488 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 258 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[5-(tert-butoxymethyl)-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl]-2-chlorobenzonitrile | C(C)(C)(C)OCC1C(C(C(N1C1=CC(=C(C#N)C=C1)Cl)=O)(C)C)=O | C18H21ClN2O3
